US06680333B2
20a) N-Formyl-L-leucine tert-butyl Ester
The preparation was carried out analogously to W. Duczek et al., Synthesis, 37-38 (1996). A solution of 4.04 g (40 mmol) of triethylamine in 10 mL of dichloromethane was added at 0° C. to a solution of 8.94 g (40 mmol) of L-leucine tert-butyl ester hydrochloride and 3.4 g (40 mmol) of cyanomethyl formate in 60 mL of dichloromethane. The reaction solution was allowed to warm to room temperature, stirred overnight at room temperature and then washed twice with saturated NaCl solution. The phases were separated and the organic phase was dried over magnesium sulfate. After filtration and removal of the solvent in vacuo, the residue obtained was distilled in vacuo. Yield: 7.5 g (87%). Boiling point: 118° C./2.7 Pa (0.02 torr).

reactant | triethylamine | 40 mmol, 4.04 g | C(C)N(CC)CC | C6H15N
reactant | L-leucine tert-butyl ester hydrochloride | 40 mmol, 8.94 g | Cl.C(C)(C)(C)OC([C@@H](N)CC(C)C)=O
reactant | cyanomethyl formate | 40 mmol, 3.4 g | C(=O)OCC#N | C3H3NO2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | N-Formyl-L-leucine tert-butyl Ester | C(C)(C)(C)OC([C@@H](NC=O)CC(C)C)=O | C11H21NO3
